US06610688B2
Synthesis of 3-{5-[4-(3-Chloro-4-fluoro-phenylamino)-6-oxo-6,7-dihydro-pyrrolo[2,3-D]pyrimidin-5-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic Acid (Formula 19)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (6.3 mg, 0.0226 mmol), 3-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid (4.9 mg, 0.0249 mmol) and piperidine (4 drops) in ethanol (1 mL) was stirred at room temperature for 24 hours. The reaction was concentrated and purified (reversed phase HPLC) to give 5.2 mg (51%) of the title compound. MS 456.4 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.0226 mmol, 6.3 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 3-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid | 0.0249 mmol, 4.9 mg | C(=O)C1=C(C(=C(N1)C)CCC(=O)O)C | C10H13NO3
catalyst | piperidine | 4 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-{5-[4-(3-Chloro-4-fluoro-phenylamino)-6-oxo-6,7-dihydro-pyrrolo[2,3-D]pyrimidin-5-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic Acid | 5.2 mg, 51% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC2=C(C(=C(N2)C)CCC(=O)O)C)=O | C22H19ClFN5O3
